US05068334
1-(2-Hydroxyethyl)-3-methyl-7,8-dihydro-2,5(1H.6H)-quinolinedione
Prepared analogously to Example 5(b) from 3-methyl- 5,6,7,8-tetrahydro-cumarin-5-one and 2-hydroxy- ethylamine.

reactant | 3-methyl- 5,6,7,8-tetrahydro-cumarin-5-one | CC=1C(OC=2CCCC(C2C1)=O)=O | C10H10O3
reactant | 2-hydroxy- ethylamine | OCCN | C2H7NO
product | 1-(2-Hydroxyethyl)-3-methyl-7,8-dihydro-2,5(1H.6H)-quinolinedione | OCCN1C(C(=CC=2C(CCCC12)=O)C)=O | C12H15NO3
